US06518264B2
2 cm3 of pyridine and then 11.5 mg of acetic anhydride are successively added, at a temperature close to 20° C., to 54 mg of 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine. After stirring for 23 hours at a temperature close to 20° C., the reaction medium is concentrated to dryness under reduced pressure (1 kPa) at a temperature close to 30° C. The residue obtained is taken up in 5 cm3 of ethyl acetate and 2 cm3 of water. After separating after settling out, the organic phase is washed with 2 cm3 of water, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (1 kPa) at a temperature close to 40° C. 52 mg of 4-acetyl 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine are thus obtained in the form of a beige foam [1H NMR spectrum (300 MHz, CDCl3), δ in ppm): 2.16 (s, 3H), 2.77 (s, 3H), from 3.10 to 3.25 (mt, 4H), 3.63 (broad t, J=5.5 Hz, 2H), 3.78 (broad t, J=5.5 Hz, 2H), 3.82 (mt, 2H), 4.34 (mt, 2H), 4.50 (s, 1H), 6.84 (broad d, J=8 Hz, 1H), 6.92 (dd, J=8 and 2 Hz, 1H), 7.02 (mt, 1H), from 7.20 to 7.40 (mt, 9H)].

reactant | pyridine | 2 cm3 | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 11.5 mg | C(C)(=O)OC(C)=O | C4H6O3
reactant | 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine | 54 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=CS(=O)(=O)CC=1C=C(C=CC1)N1CCNCC1)C1=CC=C(C=C1)Cl | C28H29Cl2N3O2S
solvent | ethyl acetate | 5 cm3 | C(C)(=O)OCC | C4H8O2
solvent | water | 2 cm3 | O | H2O
product | 4-acetyl 1-[3-({1-[bis-(4-chlorophenyl)methyl]azetidin-3-ylidene}methanesulfonylmethyl)phenyl]piperazine | 52 mg | C(C)(=O)N1CCN(CC1)C1=CC(=CC=C1)CS(=O)(=O)C=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C30H31Cl2N3O3S
